US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide 1 hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.6 g) and 5-amino-2-[4-(4-hydroxypiperidin-1-yl) piperidin-1-yl]benzonitrile (0.6 g), the title compound (0.2 g) was obtained, melting point: 213° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.6 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-(4-hydroxypiperidin-1-yl) piperidin-1-yl]benzonitrile | 0.6 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCC(CC1)O | C17H24N4O
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 0.2 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCC(CC1)O)C#N | C28H31ClN6O2
